US08975443B2
4-(2-Oxoindolin-1-yl)benzonitrile
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with oxindole (40 mg, 0.300 mmol, 1 equivalent), 4-chlorobenzonitrile (50 mg, 0.361 mmol, 1.2 equivalents), potassium carbonate (83 mg, 0.601 mmol, 2 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (2.8 mg, 0.0030 mmol, 0.01 equivalents) and 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepane (3.0 mg, 0.0066 mmol, 0.022 equivalents). Then tetrahydrofuran (0.3 mL) was syringed into the vial. The vial was sealed with a crimp top and placed in a heating block at 80° C. After 24 hours, the vial was removed from the heating block, cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with tetrahydrofuran (2 mL) and filtered into a tared 125-mL Erlenmeyer flask. The vial was rinsed with tetrahydrofuran (2×2.5 mL), followed by washing of the filter cake with tetrahydrofuran (5 mL). A wt % analysis was performed on the filtered solution and an assay yield of 71% was measured (literature reference: Altman R A, et al. J. Am. Chem. Soc. 2008; 130: 9613-9620). 1H NMR (400 MHz, CDCl3) δ ppm 7.90-7.82 (m, 2H), 7.68-7.60 (m, 2H), 7.41-7.34 (m, 1H), 7.32-7.25 (m, 1H), 7.21-7.13 (m, 1H), 6.93 (dd, J=9.8, 2.1 Hz, 1H), 3.79 (s, 2H).

reactant | oxindole | 0.300 mmol, 40 mg, 1 equivalent | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 4-chlorobenzonitrile | 0.361 mmol, 50 mg, 1.2 equivalents | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | potassium carbonate | 0.601 mmol, 83 mg, 2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,7,7-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphepane | 0.0066 mmol, 3.0 mg, 0.022 equivalents | CC1(P(C(CCCC1)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C31H47P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0030 mmol, 2.8 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
product | 4-(2-Oxoindolin-1-yl)benzonitrile | yield of 71% | O=C1N(C2=CC=CC=C2C1)C1=CC=C(C#N)C=C1 | C15H10N2O
